US05185358
Preparation of N-[2,6-bis(1-methylethyl)phenyl]-N'(5-dodecyl-1H-1,2,4-triazol-3-yl)urea
Employing the general method of Example 2 but using N-[2,6-bis(1-methylethyl)phenyl]-N'-(2-acetyl-5-dodecyl-2H-1,2,4-triazol-3-yl)urea instead of N-[2,6-bis(1-methylethyl)phenyl-N'-(2-acetyl-5-undecyl-2H-1,2,4-triazol-3-yl)urea, the title compound was prepared; m.p. 154°-164° C.

reactant | N-[2,6-bis(1-methylethyl)phenyl]-N'-(2-acetyl-5-dodecyl-2H-1,2,4-triazol-3-yl)urea | CC(C)C1=C(C(=CC=C1)C(C)C)NC(=O)NC=1N(N=C(N1)CCCCCCCCCCCC)C(C)=O | C29H47N5O2
reactant | 2,6-bis(1-methylethyl)phenyl-N'-(2-acetyl-5-undecyl-2H-1,2,4-triazol-3-yl)urea | CC(C)C1=C(C(=CC=C1)C(C)C)NC(=O)NC=1N(N=C(N1)CCCCCCCCCCC)C(C)=O | C28H45N5O2
product | N-[2,6-bis(1-methylethyl)phenyl]-N'(5-dodecyl-1H-1,2,4-triazol-3-yl)urea | CC(C)C1=C(C(=CC=C1)C(C)C)NC(=O)NC1=NNC(=N1)CCCCCCCCCCCC | C27H45N5O
